US04312870
The solution of 308 mg of 1-(p-chlorophenyl)-4-hydroxymethylene-3-(o-nitrophenyl)-4,5-dihydropyrazol-5-one in 80 ml of tetrahydrofuran is hydrogenated over 50 mg of 5% platinum on charcoal at room temperature and 3 atmospheres for 0.5 hour. The mixture is filtered, the filtrate evaporated and the residue taken up in 150 ml of toluene. To the solution, 0.1 ml of conc. hydrochloric acid is added, and the mixture refluxed at a water separator for 18 hours. It is cooled, the precipitate formed filtered off and purified by preparative thin layer chromotography, using ethyl acetate:ethanol:conc. ammonium hydroxide (17:3:3) as developing solvent on silica gel, to yield the 2-(p-chlorophenyl)-pyrazolo[4, 3-c]quinolin-3(5H)-one melting at 327°, it is identical with that of Example 1.

reactant | 1-(p-chlorophenyl)-4-hydroxymethylene-3-(o-nitrophenyl)-4,5-dihydropyrazol-5-one | 308 mg | ClC1=CC=C(C=C1)N1N=C(C(C1=O)=CO)C1=C(C=CC=C1)[N+](=O)[O-] | C16H10ClN3O4
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | platinum on charcoal | 50 mg | [Pt] | Pt
product | 2-(p-chlorophenyl)-pyrazolo[4, 3-c]quinolin-3(5H)-one | ClC1=CC=C(C=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C16H10ClN3O
